US08536179B2
To a solution of 6-(2-dimethylamino-ethoxy)-1-isopropyl-1H-indole-4-carboxylic acid methyl ester (500 mg, 1.64 mmol) in THF (5 mL) was added LiOH.H2O (200 mg, 4.93 mmol) in water (5 mL). The reaction was heated at reflux for 5 h, at which time the THF was removed under reduced pressure. The remaining mixture was acidified with 1 N HCl (pH ˜6) and extracted with 10% MeOH in chloroform (4×30 mL). The combined organic layer was dried over anhydrous Na2SO4 and concentrated to yield 6-(2-dimethylamino-ethoxy)-1-isopropyl-1H-indole-4-carboxylic acid (400 mg), which was used in the next stage without further purification. LCMS (ES+): m/z=291.30 [M+H].

reactant | 6-(2-dimethylamino-ethoxy)-1-isopropyl-1H-indole-4-carboxylic acid methyl ester | 1.64 mmol, 500 mg | COC(=O)C=1C=2C=CN(C2C=C(C1)OCCN(C)C)C(C)C | C17H24N2O3
reactant | LiOH.H2O | 4.93 mmol, 200 mg | O[Li].O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 6-(2-dimethylamino-ethoxy)-1-isopropyl-1H-indole-4-carboxylic acid | 400 mg | CN(CCOC=1C=C(C=2C=CN(C2C1)C(C)C)C(=O)O)C | C16H22N2O3
